### PR TITLE
[Merged by Bors] - chore(Geometry/Convex/Cone): clean up

### PR DESCRIPTION
**Pull request by YaelDillies**
Rename all the `ConvexCone`s in the files to `C`, `C₁`, `C₂`. Previously they were `S`, `T`, `K`, `K₁`, `K₂`. Make sure to tag all the relevant lemmas with `norm_cast`. Fix lemma names. Golf proofs.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 1]
```diff
@@ -47,10 +46,9 @@ variable {𝕜 R M N O : Type*}
 
 section Definitions
 
-variable (R M)
 variable [Semiring R] [PartialOrder R]
 
--- TODO: remove `[IsOrderedRing R]`.
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:52]: This still applies

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 2]
```diff
@@ -69,87 +67,74 @@ variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid M]
...
-  S.smul_mem' hc hx
+protected lemma smul_mem (hc : 0 < c) (hx : x ∈ C) : c • x ∈ C := C.smul_mem' hc hx
 
-theorem add_mem ⦃x⦄ (hx : x ∈ S) ⦃y⦄ (hy : y ∈ S) : x + y ∈ S :=
-  S.add_mem' hx hy
+variable (C) in
+protected lemma add_mem ⦃x⦄ (hx : x ∈ C) ⦃y⦄ (hy : y ∈ C) : x + y ∈ C := C.add_mem' hx hy
 
-instance : AddMemClass (ConvexCone R M) M where add_mem ha hb := add_mem _ ha hb
+instance : AddMemClass (ConvexCone R M) M where add_mem ha hb := add_mem' _ ha hb
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:91]: Why is this change needed?

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 3]
```diff
@@ -69,87 +67,74 @@ variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid M]
...
   mem_iInter₂.trans <| by simp
 
-variable (R)
-
 instance : Bot (ConvexCone R M) :=
   ⟨⟨∅, fun _ _ _ => False.elim, fun _ => False.elim⟩⟩
 
-theorem mem_bot (x : M) : (x ∈ (⊥ : ConvexCone R M)) = False :=
-  rfl
+@[simp] lemma not_mem_bot : x ∉ (⊥ : ConvexCone R M) := id
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean]:
```suggestion
@[simp] lemma notMem_bot : x ∉ (⊥ : ConvexCone R M) := id
```

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 4]
```diff
@@ -69,87 +67,74 @@ variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid M]
...
+lemma mem_iInf {ι : Sort*} {f : ι → ConvexCone R M} : x ∈ iInf f ↔ ∀ i, x ∈ f i :=
   mem_iInter₂.trans <| by simp
 
-variable (R)
-
 instance : Bot (ConvexCone R M) :=
   ⟨⟨∅, fun _ _ _ => False.elim, fun _ => False.elim⟩⟩
 
-theorem mem_bot (x : M) : (x ∈ (⊥ : ConvexCone R M)) = False :=
-  rfl
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean]: This is clearly the wrong formulation of the assertion, but imo it's still useful to add a deprecation for it, since `rw [mem_bot]` is an occasionally helpful application

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 5]
```diff
@@ -434,77 +397,63 @@ variable [Semiring R] [PartialOrder R] [IsOrderedRing R]
...
-theorem coe_toConvexCone (S : Submodule R M) : ↑S.toConvexCone = (S : Set M) :=
-  rfl
-
-@[simp]
-theorem mem_toConvexCone {x : M} {S : Submodule R M} : x ∈ S.toConvexCone ↔ x ∈ S :=
-  Iff.rfl
+@[simp] lemma coe_toConvexCone (C : Submodule R M) : C.toConvexCone = (C : Set M) := rfl
 
-@[simp]
-theorem toConvexCone_le_iff {S T : Submodule R M} : S.toConvexCone ≤ T.toConvexCone ↔ S ≤ T :=
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:453]: deprecate?

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 6]
```diff
@@ -434,77 +397,63 @@ variable [Semiring R] [PartialOrder R] [IsOrderedRing R]
...
 
+variable (R M) in
 @[simp]
 theorem coe_positive : ↑(positive R M) = Set.Ici (0 : M) :=
   rfl
 
 /-- The positive cone of an ordered module is always salient. -/
-theorem salient_positive : Salient (positive R M) := fun x xs hx hx' =>
+lemma salient_positive {M : Type*} [AddCommGroup M] [PartialOrder M] [IsOrderedAddMonoid M]
+    [Module R M] [PosSMulMono R M] : Salient (positive R M) := fun x xs hx hx' =>
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean]: why do you need a new `M` here?

**Review by b-mehta — APPROVED** [review]
Looks mostly reasonable, but don't forget about deprecations. Will check once more after the below is addressed to make sure I haven't missed anything, then this should be good to go

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Geometry/Convex/Cone/Basic.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Basic.lean]: because it's a group. I've changed to `G`

File: Mathlib/Geometry/Convex/Cone/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:91]: because a bare `add_mem` refers to `AddMemClass.add_mem`, which is circular. Not sure how it worked before

**Review by b-mehta — APPROVED** [review]
Thanks!

bors merge
